US03939836
A sulfating mixture comprising sodium acetyl sulfate was prepared as follows: 162.9 grams acetic anhydride and 52.5 grams glacial acetic acid were added to a 1 liter jacketed resin flask. 30.8 grams of sodium sulfate were added and the contents stirred for 5 minutes. 20.15 grams of concentrated sulfuric acid (98% by weight) were added dropwise at such a rate that the temperature of the reactor contents did not exceed 55° C. The rate of addition of sulfuric acid may be increased, if desired, if cooling is applied by circulating ice water through the jacket of the reactor. The reactor was stirred for 30 minutes after the addition of the sulfuric acid was completed.

reactant | acetic anhydride | 162.9 grams | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium sulfate | 30.8 grams | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sulfuric acid | 20.15 grams | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 52.5 grams | C(C)(=O)O | C2H4O2
product | sodium acetyl sulfate | S(=O)(=O)(OC(C)=O)[O-].[Na+] | InChI=1S/C2H4O5S.Na/c1-2(3)7-8(4,5)6;/h1H3,(H,4,5,6);/q;+1/p-1
